US09371262B2
(E)-1-ethoxy-8,10-dimethyl-3,4,5,6,9,10-hexahydroazecin-2(1H)-one
Following the general procedure as described in Example 17, 2-(prop-1-en-2-yl)cyclohexanone (0.88 g, 6.38 mmol), acetaldehyde O-ethyl oxime (0.67 g, 7.65 mmol), and SnCl4 (1.66 g, 6.38 mmol) in 1,2-dichloroethane (65 ml) were reacted to give the title product as a colorless liquid (1.14 g, 80% yield).

reactant | 2-(prop-1-en-2-yl)cyclohexanone | 6.38 mmol, 0.88 g | C=C(C)C1C(CCCC1)=O | C9H14O
reactant | acetaldehyde O-ethyl oxime | 7.65 mmol, 0.67 g | C(C)ON=CC | C4H9NO
reactant | SnCl4 | 6.38 mmol, 1.66 g | Cl[Sn](Cl)(Cl)Cl
solvent | 1,2-dichloroethane | 65 ml | ClCCCl | C2H4Cl2
product | (E)-1-ethoxy-8,10-dimethyl-3,4,5,6,9,10-hexahydroazecin-2(1H)-one | 1.14 g, 80% yield | C(C)ON1C(CCCC\C=C(\CC1C)/C)=O | C13H23NO2
